US07205302B2
6-chloro-2,3-diphenylpyridine
To 922 mg of 2,3-diphenylpyridin-1-oxide, 3 ml of phosphorus oxychloride was added, followed by stirring at 100° C. for 15 minutes. The reaction solution was poured into iced water, extracted with ethyl acetate and then washed with an aqueous 5% potassium carbonate solution and saturated brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 428 mg of the desired compound as an oily substance.

reactant | 2,3-diphenylpyridin-1-oxide | 922 mg | C1(=CC=CC=C1)C1=[N+](C=CC=C1C1=CC=CC=C1)[O-] | C17H13NO
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 6-chloro-2,3-diphenylpyridine | 428 mg | ClC1=CC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H12ClN
